US04409229
A solution of 2.5 g of 3-(3,4-dichlorophenyl)-1,3-dihydro-1'-methylspiro[benzo(c)thiophene-1,4'-piperidine], free base of Example 19, and 1.3 g of phenyl chloroformate in 30 ml of methylene chloride is stirred at ambient temperature for 16 hours. The well stirred solution is washed successively with dilute sodium hydroxide and water and then dried, effecting a crystalling product. The product is recrystallized from an acetone-pentane mixture to give fine needles, m.p. 200°-202° C. of 3-(3,4-dichlorophenyl)-1,3-dihydro-1'-phenoxycarbonylspiro[benzo(c)thiophene-1,4'-piperidine].

reactant | 3-(3,4-dichlorophenyl)-1,3-dihydro-1'-methylspiro[benzo(c)thiophene-1,4'-piperidine] | 2.5 g | ClC=1C=C(C=CC1Cl)C1C2=C(C=CC=C2)C2(CCN(CC2)C)S1 | C19H19Cl2NS
reactant | phenyl chloroformate | 1.3 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-(3,4-dichlorophenyl)-1,3-dihydro-1'-phenoxycarbonylspiro[benzo(c)thiophene-1,4'-piperidine] | ClC=1C=C(C=CC1Cl)C1C2=C(C=CC=C2)C2(CCN(CC2)C(=O)OC2=CC=CC=C2)S1 | C25H21Cl2NO2S
